US08003792B2
Step A. 2′,3′,5′,6′-Tetrahydrospiro[indole-3,4′-pyran]-2(1H)-one
Butyllithium (2.5 M in hexanes, 3.76 mL, 9.39 mmol) was added to a solution of oxindole (500 mg, 3.76 mmol) at −78° C. in THF (40 mL). After complete addition, N,N,N′,N′-tetramethylethane-1,2-diamine (1.48 mL, 9.76 mmol) was added, maintaining the internal temperature <−70° C. After 1 h at −78° C., 2-iodoethyl ether (4.90 g, 15.0 mmol) was added and the reaction warmed to ambient temperature. After 48 h the reaction was quenched with H2O (5 mL) and the mixture was partitioned between EtOAc (100 mL) and H2O (100 mL). The aqueous solution was extracted with EtOAc (3×50 mL) and the combined organic layers were washed with brine (20 mL), dried over Na2SO4, filtered, and concentrated in vacuo. Purification by silica gel chromatography, eluting with a gradient of CH2Cl2:MeOH-100:0 to 97:3, gave the title compound. MS: m/z=204 (M+1).

reactant | Butyllithium | 9.39 mmol, 2.5 M, 3.76 mL | C(CCC)[Li]
reactant | oxindole | 3.76 mmol, 500 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | N,N,N′,N′-tetramethylethane-1,2-diamine | 9.76 mmol, 1.48 mL | CN(CCN(C)C)C | C6H16N2
reactant | 2-iodoethyl ether | 15.0 mmol, 4.90 g | ICCOCCI | C4H8I2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2′,3′,5′,6′-Tetrahydrospiro[indole-3,4′-pyran]-2(1H)-one | O1CCC2(CC1)C(NC1=CC=CC=C12)=O | C12H13NO2
